US07153875B2
To a solution of 2-[6-(3-[1-adamantyl]-4-methoxyphenyl)-2-naphthyl]-2-hydroxy-acetonitrile, (0.314 mg, 0.74 mmol) in anhydrous chloroform (10 mL) were added SOCl2 (0.17 mL, 2.23 mmol) and DMF (3 drops). The reaction mixture was heated under reflux for 40 minutes before it was allowed to cool down, washed with water, saturated NaHCO3, brine to give 2-[6-(3-[1-adamantyl]-4-methoxyphenyl)-2-naphthyl]-2-chloro-acetonitrile that was used without further purification.

reactant | 2-[6-(3-[1-adamantyl]-4-methoxyphenyl)-2-naphthyl]-2-hydroxy-acetonitrile | 0.74 mmol, 0.314 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)C(C#N)O | C29H29NO2
reactant | SOCl2 | 2.23 mmol, 0.17 mL | O=S(Cl)Cl | Cl2OS
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 2-[6-(3-[1-adamantyl]-4-methoxyphenyl)-2-naphthyl]-2-chloro-acetonitrile | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)C(C#N)Cl | C29H28ClNO
